US08314138B2
Synthesis of 2-{1-[2-(1H-indol-3-yl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide
The title compound was prepared from 4-methyl-2-(2H-pyrazol-3-yl)thiazole-5-carboxylic acid 4-fluoro-benzylamide and 3-(2-bromo-ethyl)-1H-indole as describe in Example 83 and isolated as a yellow solid (0.056 g, 40% yield). 1H NMR (400 MHz, CDCl3) δ 8.01 (bs, 1H), 7.56 (d, J=8 Hz, 1H), 7.31-7.38 (m, 2H), 7.20-7.25 (m, 1H), 7.10-7.16 (m, 2H), 6.81 (d, J=2 Hz, 1H), 6.70 (d, J=2 Hz, 1H), 5.99-6.04 (m, 1H), 4.59 (d, J=4 Hz, 2H), 4.45 (t, J=7 Hz, 2H), 3.35 (t, J=7 Hz, 2H), 2.76 (s, 3H); MS (M+H)+=460.2; Rt=1.47 min; HRMS (M+H)+=460.16.

reactant | 4-methyl-2-(2H-pyrazol-3-yl)thiazole-5-carboxylic acid 4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C=2NN=CC2)C)C=C1 | C15H13FN4OS
reactant | 3-(2-bromo-ethyl)-1H-indole | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
product | 2-{1-[2-(1H-indol-3-yl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NN(C=C2)CCC2=CNC3=CC=CC=C23)C)C=C1 | C25H22FN5OS
